US07183277B2
2.5 g of water-moist palladium on activated carbon (5% of Pd) are added to a solution of 25.0 g (103 mmol) of 1-(4-nitrophenyl)pyrrolidin-2-ylideneamine, hydrochloride, in 500 ml of methanol, and the mixture is hydrogenated at room temperature for 17 hours. The catalyst is filtered off, and the filtrate is evaporated, giving 1-(4-aminophenyl)pyrrolidin-2-ylideneamine, hydrochloride, as a brownish solid; ESI 176.

reactant | water | 2.5 g | O | H2O
reactant | 1-(4-nitrophenyl)pyrrolidin-2-ylideneamine, hydrochloride | 103 mmol, 25.0 g | Cl.[N+](=O)([O-])C1=CC=C(C=C1)N1C(CCC1)=N
solvent | methanol | 500 ml | CO | CH4O
product | 1-(4-aminophenyl)pyrrolidin-2-ylideneamine, hydrochloride | Cl.NC1=CC=C(C=C1)N1C(CCC1)=N | InChI=1S/C10H13N3.ClH/c11-8-3-5-9(6-4-8)13-7-1-2-10(13)12;/h3-6,12H,1-2,7,11H2;1H
